US07223788B2
N-(1-{4-[3-(4-Cyclopentyloxyphenyl)ureido]phenyl}pyrrolidin-3-yl)-N-ethylacetamide
N-Ethyl-N-pyrrolidin-3-ylacetamide was reacted with 4-fluoronitrobenzene, the resulting nitro compound was reduced with hydrogen and finally the aniline was reacted with CDI and 4-cyclopentyloxyaniline by method A, B and C. This resulted in the product with the molecular weight of 450.59 (C26H34N4O3); MS (ESI): 451 (M+H+).

reactant | N-Ethyl-N-pyrrolidin-3-ylacetamide | C(C)N(C(C)=O)C1CNCC1 | C8H16N2O
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrogen | [H][H] | H2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-cyclopentyloxyaniline | C1(CCCC1)OC1=CC=C(N)C=C1 | C11H15NO
product | N-(1-{4-[3-(4-Cyclopentyloxyphenyl)ureido]phenyl}pyrrolidin-3-yl)-N-ethylacetamide | C1(CCCC1)OC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)N1CC(CC1)N(C(C)=O)CC)=O | C26H34N4O3
